US08871767B2
6-methoxy-2-(4-methyl-3-nitrophenyl)imidazo[1,2-b]pyridazine
A stirred solution of 6-methoxypyridazin-3-amine (Apollo Scientific, 0.750 g, 5.99 mmol) and 2-bromo-1-(4-methyl-3-nitrophenyl)ethanone (1.54 g, 5.99 mmol) in acetonitrile (20 mL) is heated at 80° C. for 16 hours. The reaction mixture is concentrated to dryness and purified via chromatography (hexanes to EtOAc) to afford the title compound (1.45 g, 85%) as a light yellow solid: Rf 0.45 (1:1 EtOAc:hexanes); LCMS (m/z)=285.4 [M+H]+, tR=7.47 min. (10 min run)

reactant | 6-methoxypyridazin-3-amine | 5.99 mmol, 0.750 g | COC1=CC=C(N=N1)N | C5H7N3O
reactant | 2-bromo-1-(4-methyl-3-nitrophenyl)ethanone | 5.99 mmol, 1.54 g | BrCC(=O)C1=CC(=C(C=C1)C)[N+](=O)[O-] | C9H8BrNO3
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 6-methoxy-2-(4-methyl-3-nitrophenyl)imidazo[1,2-b]pyridazine | 1.45 g, 85% | COC=1C=CC=2N(N1)C=C(N2)C2=CC(=C(C=C2)C)[N+](=O)[O-] | C14H12N4O3
